US07799775B2
To a solution of 170 mg of ethyl 2-aminocyclohex-1-enecarboxylate as synthesized in Step 7-1-B in 5 ml of pyridine, 70 mg of phosphorus trichloride was added under cooling with ice, followed by 15 minutes' stirring. Raising the temperature to room temperature, 327 mg of 5-(4-quinoline-2-ylpiperazin-1-yl)hexanoic acid as synthesized in above Step 7-14-C was added to the solution and stirred for 3 hours. Distilling the pyridine off under reduced pressure, the residue was extracted with ethyl acetate and washed with water. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was concentrated under reduced pressure. The residue was purified on silica gel column chromatography (ethyl acetate) to provide 182 mg (38%) of ethyl 2-[5-(4-quinolin-2-ylpiperazin-1-yl)hexanoylamino]cyclohex-1-enecarboxylate.

reactant | ethyl 2-aminocyclohex-1-enecarboxylate | 170 mg | NC1=C(CCCC1)C(=O)OCC | C9H15NO2
reactant | phosphorus trichloride | 70 mg | P(Cl)(Cl)Cl | Cl3P
reactant | 5-(4-quinoline-2-ylpiperazin-1-yl)hexanoic acid | 327 mg | N1=C(C=CC2=CC=CC=C12)N1CCN(CC1)C(CCCC(=O)O)C | C19H25N3O2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 2-[5-(4-quinolin-2-ylpiperazin-1-yl)hexanoylamino]cyclohex-1-enecarboxylate | 182 mg, 38% | N1=C(C=CC2=CC=CC=C12)N1CCN(CC1)C(CCCC(=O)NC1=C(CCCC1)C(=O)OCC)C | C28H38N4O3
